US05723483
3-Hydrazino-4-methylbenzoic acid hydrochloride.
A solution of 2.74 g of NaNO2 in 28 ml of water is added over 30 minutes to a solution, cooled to -5° C., of 5 g of 3-amino-4-methylbenzoic acid in 120 ml of concentrated HCl and 40 ml AcOH, and the mixture is left stirring for 1 hour 20 minutes at 0° C. After cooling to -10° C., a solution of 27.6 g of SnCl2 ·2H2O in 28 ml of concentrated HCl is added slowly. After stirring for 1 hour at RT, filtration, washing of the precipitate with 5 ml of 1N HCl and drying over P2O5 under vacuum, 6.15 g of the expected product are obtained.

reactant | NaNO2 | 2.74 g | N(=O)[O-].[Na+]
reactant | 3-amino-4-methylbenzoic acid | 5 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | SnCl2 | 27.6 g | Cl[Sn]Cl
solvent | water | 28 ml | O | H2O
solvent | HCl | 120 ml | Cl | ClH
solvent | AcOH | 40 ml | CC(=O)O | C2H4O2
solvent | HCl | 28 ml | Cl | ClH
product | 3-Hydrazino-4-methylbenzoic acid hydrochloride | Cl.N(N)C=1C=C(C(=O)O)C=CC1C | InChI=1S/C8H10N2O2.ClH/c1-5-2-3-6(8(11)12)4-7(5)10-9;/h2-4,10H,9H2,1H3,(H,11,12);1H
